US04723010
2-Chloromethyl-5-bromobenzoxazole
2-Amino-4-bromophenol (1.6 g) prepared according to U.S. Pat. No. 4,157,444 was dissolved in ethanol (5 ml) and 2-chloro-1,1,1-triethoxyethane (1.9 g) was added. The resulting solution was warmed on a steambath for 1.5 hour. After cooling the reaction mixture to room temperature, cold water (5 ml) was added. The precipitated solid was collected and air-dried to obtain the product (1.12 g; m.p. 63°-65° C.

reactant | 2-Amino-4-bromophenol | 1.6 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | 2-chloro-1,1,1-triethoxyethane | 1.9 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
reactant | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-Chloromethyl-5-bromobenzoxazole | ClCC=1OC2=C(N1)C=C(C=C2)Br | C8H5BrClNO
